US09388161B2
A mixture of 2,4-dibromothiazole (1.00 g, 4.12 mmol), azetidin-3-ol hydrochloride (0.543 g, 4.96 mmol), and cesium carbonate (4.03 g, 12.37 mmol) in acetonitrile (30 mL) was stirred for 18 h at 70° C. The reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated under vacuum, and the residue was purified via column chromatography on silica gel (eluting with 10:1, dichloromethane/methanol) to afford 1-(4-bromothiazol-2-yl)azetidin-3-ol (0.535 g, 53%) as a light yellow solid. MS (ESI, pos. ion) m/z 235, 237 [M+H]+.

reactant | 2,4-dibromothiazole | 4.12 mmol, 1.00 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | azetidin-3-ol hydrochloride | 4.96 mmol, 0.543 g | Cl.N1CC(C1)O
reactant | cesium carbonate | 12.37 mmol, 4.03 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-(4-bromothiazol-2-yl)azetidin-3-ol | 0.535 g, 53% | BrC=1N=C(SC1)N1CC(C1)O | C6H7BrN2OS
